US04604130
A suspension of 52.0 g of 4-amino-3-isothiazolecarboxylic acid hydrochloride [prepared by the method of K. Gewald and P. Billman, Liebigs Ann. 1542 (1979)] in 300 ml methanol was cooled in an ice-bath and 10 ml of thionyl chloride was added dropwise. The reaction mixture was refluxed 3 hours, cooled and the solvent evaporated. The residual solid was collected, washed with ether and dried giving 47.5 g of methyl 4-amino-3-isothiazolecarboxylate hydrochloride, m.p. 170° (d).

reactant | 4-amino-3-isothiazolecarboxylic acid hydrochloride | 52.0 g | Cl.NC=1C(=NSC1)C(=O)O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 300 ml | CO | CH4O
product | methyl 4-amino-3-isothiazolecarboxylate hydrochloride | 47.5 g | Cl.NC=1C(=NSC1)C(=O)OC | InChI=1S/C5H6N2O2S.ClH/c1-9-5(8)4-3(6)2-10-7-4;/h2H,6H2,1H3;1H
